US08877815B2
To a solution of 2-oxaspiro[4.4]nonane-1,3-dione (3 g, 19.46 mmol) in toluene (2 ml), BnOH (2.023 ml, 19.46 mmol) was added. The reaction mixture was allowed to stir at 100° C. for 19 hours, and the reaction mixture was concentrated under reduced pressure. The obtained residue was recrystallized in DCM (15 ml) and 2,2,4-trimethylpentane (100 ml). The obtained colorless crystal was washed with a 10% solution of DCM/heptane (20 ml). The obtained solid was dried under reduce pressure to give 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid (3.09 g); Retention time=1.56 minutes (condition A); 1H NMR (400 MHz, CDCl3) δ ppm 1.24 (t, J=7.2 Hz, 3H) 1.58-1.81 (m, 6H) 2.19-2.25 (m, 2H) 2.75 (s, 2H) 5.11 (s, 2H) 7.28-7.37 (m, 5H) 11.80 (br s, 1H).

reactant | 2-oxaspiro[4.4]nonane-1,3-dione | 19.46 mmol, 3 g | C1(OC(CC12CCCC2)=O)=O | C8H10O3
reactant | BnOH | 19.46 mmol, 2.023 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid | 3.09 g | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)O)=O | C15H18O4
